US08871774B2
Formation of 5-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine (6)
Degassed a solution of 3-bromo-5-fluoro-1-trityl-pyrazolo[3,4-b]pyridine, 5, (3.43 g, 7.48 mmol), KOAc (2.20 g, 22.45 mmol) and 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (2.85 g, 11.23 mmol) in DMF (50 ml) for 40 min. To the mixture was added 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane (0.610 g, 0.748 mmol) The reaction mixture was heated at 100° C. for 90 minutes. The reaction mixture was filtered through a pad of celite. To the resulting filtrate was added ether and brine. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to afford 4.0 g crude product that was used in the next step without further purification (note, the product decomposes if purification is attempted via silica gel chromatography).

reactant | 3-bromo-5-fluoro-1-trityl-pyrazolo[3,4-b]pyridine | BrC1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H17BrFN3
reactant | KOAc | 7.48 mmol, 3.43 g | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 11.23 mmol, 2.85 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane | 0.748 mmol, 0.610 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-1H-pyrazolo[3,4-b]pyridine | 4.0 g | FC=1C=C2C(=NC1)N(N=C2B2OC(C(O2)(C)C)(C)C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H29BFN3O2
